US04725610
2-(2,5-Dimethyl-4-oxazolyl)ethanol (17.0 g) and 4-fluoronitrobenzene (17.0 g) were dissolved in N,N-dimethylformamide (150 ml), and 60% sodium hydride in oil (6.0 g) was added dropwise to the solution under vigorous stirring. After stirring at room temperature for 1 hour, the reaction mixture was poured into water (1 l) and the crystals which separated out were collected by filtration and recrystallized from ethyl acetate-hexane to give 4-[2-(2,5-dimethyl-4-oxazolyl)ethoxy]nitrobenzene (27.5 g. 87.0%). Colorless columns, m.p. 97°-98° C. Elemental analysis for C13H14N2O4, Calcd.: C, 59.94; H, 5.38; N, 10.68. Found: C, 59.72; H, 5.44; N, 10.63.

reactant | 2-(2,5-Dimethyl-4-oxazolyl)ethanol | 17.0 g | CC=1OC(=C(N1)CCO)C | C7H11NO2
reactant | 4-fluoronitrobenzene | 17.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium hydride | [H-].[Na+]
reactant | water | 1 l | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-[2-(2,5-dimethyl-4-oxazolyl)ethoxy]nitrobenzene | 27.5 g, 87.0% | CC=1OC(=C(N1)CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C13H14N2O4
